US04251534
A mixture of 2-amino-hydroxybenzene, toluene and sym-tetrafluoroacetone can be heated in a Hastelloy® bomb. The solvent can be removed by evaporation and the residual material can be purified by chromatography on silica gel to give 4-amino[2,2-difluoro-1-hydroxy-1-(difluoromethyl)ethyl]-3-hydroxybenzene.

reactant | 2-amino-hydroxybenzene | NC1=C(C=CC=C1)O | C6H7NO
reactant | sym-tetrafluoroacetone | C(C(=O)C(F)F)(F)F | C3H2F4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-amino[2,2-difluoro-1-hydroxy-1-(difluoromethyl)ethyl]-3-hydroxybenzene | NC1=C(C=C(C=C1)C(C(F)F)(C(F)F)O)O | C9H9F4NO2
